US09085555B2
3-Acetyl-1-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-3-methoxy-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indazole-6-carboxylic acid
3-Acetyl-1-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-3-methoxy-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indazole-6-carboxylic acid benzyl ester (47 mg, 0.063 mmol) was dissolved in MeOH (5 mL), Pd/C (10%, 5 mg) was added and the solution was degassed 3 times replacing air by nitrogen and finally nitrogen by hydrogen. The reaction mixture was further stirred under hydrogen atmosphere for 1 h. The catalyst was removed through a pad of Celite and washed with MeOH. The solvent was concentrated under reduced pressure and the crude residue was purified by preparative HPLC (Waters Sunfire C18-ODB, 5 μm, 30×100 mm, eluent: 5% to 100% CH3CN in H2O in 25 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min). MS (LC/MS): 549.5 [M+H]+; 547.5 [M−H]−; tR (HPLC conditions f): 1.93 min.

reactant | 3-Acetyl-1-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-3-methoxy-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indazole-6-carboxylic acid benzyl ester | 0.063 mmol, 47 mg | C(C1=CC=CC=C1)OC(=O)C1=CC=C2C(=NN(C2=C1)CC(=O)N1[C@@H]([C@@H]([C@H](C1)F)OC)C(NCC1=C(C(=CC=C1)Cl)F)=O)C(C)=O | C32H29ClF2N4O6
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 3-Acetyl-1-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-3-methoxy-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indazole-6-carboxylic acid | C(C)(=O)C1=NN(C2=CC(=CC=C12)C(=O)O)CC(=O)N1[C@@H]([C@@H]([C@H](C1)F)OC)C(NCC1=C(C(=CC=C1)Cl)F)=O | C25H23ClF2N4O6
